US07425568B2
6-(5-Nitro-pyridin-2-yloxy)-2-phenyl-3,4-dihydro-2H-naphthalen-1-one was prepared as described for 5-nitro-2-(6-phenyl-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-pyridine in Example 23(d) using 50 mg 6-hydroxy-2-phenyl-3,4-dihydro-2H-naphthalen-1-one, 33 mg 2-chloro-5-nitropyridine and 37 mg potassium fluoride. 1H NMR (400 MHz, d6-DMSO) δ: 9.07 (d, 1H, J 2.8 Hz), 8.68 (dd, 1H, J 9.0, 2.9), 8.01 (d, 1H, J 8.5), 7.37 (d, 1H, J 9.1 Hz), 7.21-7.38 (m, 7H), 3.96-4.04 (m, 1H), 3.15-3.23 (m, 1H), 2.98-3.04 (m, 1H), 2.39-2.48 (m, 1H), 2.25-2.31 (m, 1H).

reactant | 5-nitro-2-(6-phenyl-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=2CCC(CC2C=C1)C1=CC=CC=C1 | C21H18N2O3
reactant | 6-hydroxy-2-phenyl-3,4-dihydro-2H-naphthalen-1-one | 50 mg | OC=1C=C2CCC(C(C2=CC1)=O)C1=CC=CC=C1 | C16H14O2
reactant | 2-chloro-5-nitropyridine | 33 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium fluoride | 37 mg | [F-].[K+]
product | 6-(5-Nitro-pyridin-2-yloxy)-2-phenyl-3,4-dihydro-2H-naphthalen-1-one | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(C(C2=CC1)=O)C1=CC=CC=C1 | C21H16N2O4
